US08029919B2
3,7-Bis(2,2-diphenylvinyl)-10-methylphenothiazine
3.46 g (30.4 mmol) of potassium tert-butoxide and then 3.60 g (13.4 mmol) of 10-methylphenothiazine-3,7-dicarbaldehyde were added with stirring and at room temperature to a solution of 8.20 g (26.8 mmol) of diethyl benzhydrylphosphonate (prepared analogously to Example 13 in U.S. Pat. No. 5,130,603) in 60 ml of anhydrous dimethyl sulfoxide, in the course of which the temperature rose from 25 to 43° C. After stirring at room temperature for 5 hours, the reaction solution was admixed with 150 ml of methanol, stirred for 15 min and filtered through a black band filter. The residue was washed with 300 ml of methanol and dried at 80° C. under reduced pressure. The crude product (4.7 g) was dissolved in 150 ml of methylene chloride, purified on silica gel and recrystallized from 83 ml of butylglycol. 3.56 g (23% of theory) of greenish microcrystals having a melting point of 233-241° C. were obtained.

reactant | potassium tert-butoxide | 30.4 mmol, 3.46 g | CC(C)([O-])C.[K+]
reactant | 10-methylphenothiazine-3,7-dicarbaldehyde | 13.4 mmol, 3.60 g | CN1C2=CC=C(C=C2SC=2C=C(C=CC12)C=O)C=O | C15H11NO2S
reactant | diethyl benzhydrylphosphonate | 26.8 mmol, 8.20 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)P(OCC)(OCC)=O | C17H21O3P
reactant | methanol | 150 ml | CO | CH4O
solvent | dimethyl sulfoxide | 60 ml | CS(=O)C | C2H6OS
product | 3,7-Bis(2,2-diphenylvinyl)-10-methylphenothiazine | C1(=CC=CC=C1)C(=CC=1C=CC=2N(C3=CC=C(C=C3SC2C1)C=C(C1=CC=CC=C1)C1=CC=CC=C1)C)C1=CC=CC=C1 | C41H31NS
